US04698352
In 20 ml of benzene was dissolved 3.0 g of methyl 7-(4-benzyloxycarbonyl-piperazin-1-yl)-3-oxo-4-heptenoate, and 1.2 g of N,N-dimethylformamidodimethylacetal was added thereto. They were reacted at 70° C. for 1.5 hours. The reaction mixture was cooled to room temperature, and 1.0 g of 4-hydroxy-2-methylaniline was added thereto. The resulting mixture was subjected to reaction at the same temperature for 1.5 hours. After completion of this reaction, the precipitated crystals were collected by filtration, and washed with 10 ml of benzene. The crystals thus formed were dissolved in 20 ml of N,N-dimethylformamide, and they were reacted at 140° C. for 3 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform) to obtain an oily substance. This oily substance was dissolved in 20 ml of dioxane, and 0.7 g of 2,3,5,6-tetrachloro-p-benzoquinone was added thereto, and they were reacted at 80° C. for 30 minutes. After completion of the reaction, the reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration, and washed with 10 ml of dioxane. The resulting crystals were dissolved in 10 ml of a 1N aqueous sodium hydroxide solution, and the resulting solution was subjected to reaction at room temperature for 30 minutes. The reaction mixture was adjusted to a pH of 6.0 with acetic acid, and the precipitated crystals were collected by filtration, washed with water, and then dissolved in 10 ml of dioxane and 5 ml of water. Further, 0.2 g of 5% by weight palladium carbon was added thereto. The resulting mixture was subjected to hydrogenation under atmospheric pressure for 2 hours. After completion of the reaction, to the reaction mixture was added 5 ml of 2N hydrochloric acid, and the resulting mixture was filtered, after which the filtrate was concentrated to obtain 0.4 g of 1-(4-hydroxy-2-methylphenyl)-6-[2-(piperazine-1-yl)ethyl]-4-oxo-1,4-dihydronicotinic acid dihydrochloride having a melting point of 140°-148° C.

reactant | methyl 7-(4-benzyloxycarbonyl-piperazin-1-yl)-3-oxo-4-heptenoate | 3.0 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CCC=CC(CC(=O)OC)=O | C20H26N2O5
reactant | 4-hydroxy-2-methylaniline | 1.0 g | OC1=CC(=C(N)C=C1)C | C7H9NO
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 0.7 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-hydroxy-2-methylphenyl)-6-[2-(piperazine-1-yl)ethyl]-4-oxo-1,4-dihydronicotinic acid dihydrochloride | 0.4 g | Cl.Cl.OC1=CC(=C(C=C1)N1C=C(C(=O)O)C(C=C1CCN1CCNCC1)=O)C | InChI=1S/C19H23N3O4.2ClH/c1-13-10-15(23)2-3-17(13)22-12-16(19(25)26)18(24)11-14(22)4-7-21-8-5-20-6-9-21;;/h2-3,10-12,20,23H,4-9H2,1H3,(H,25,26);2*1H
